US08895547B2
4-[(2,4-Dimethoxybenzylsulfamoyl)methyl]benzoic acid methyl ester
Under inert gas, 10 g of 4-[(chlorosulfonyl)methyl]benzoic acid methyl ester were initially charged in 100 ml of DCM, then, at a temperature of 0° C., 12.1 ml of 2,4-dimethoxybenzylamine were added dropwise. The reaction mixture was filtered and the filtrate was washed with 1 N HCl. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. This gave the product (14.2 g) with a molecular weight of 379.4 g/mol (C18H21NO6S).

reactant | 4-[(chlorosulfonyl)methyl]benzoic acid methyl ester | 10 g | COC(C1=CC=C(C=C1)CS(=O)(=O)Cl)=O | C9H9ClO4S
reactant | 2,4-dimethoxybenzylamine | 12.1 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[(2,4-Dimethoxybenzylsulfamoyl)methyl]benzoic acid methyl ester | 14.2 g | COC(C1=CC=C(C=C1)CS(NCC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C18H21NO6S
